US04159981
21. Z-Gln-Asp(OtBu)-Phe-OCH3
550 mg of H-Asp(OtBu)-Phe-OCH3.HCl together with 574 mg of Z-Gln-ONP are dissolved in 2.5 ml of absolute N,N-dimethylformamide and stirred with 0.20 ml of triethylamine for 15 hours at 30°-33° C. bath temperature. Thereafter the product is extracted by shaking with a large amount of ethyl acetate as described under 19 and the solution is dried and evaporated.

reactant | H-Asp(OtBu)-Phe-OCH3.HCl | 550 mg | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl
reactant | Z-Gln-ONP | 574 mg | C1=CC=C(C=C1)COC(=O)N[C@@H](CCC(=O)N)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C19H19N3O7
reactant | triethylamine | 0.20 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | Z-Gln-Asp(OtBu)-Phe-OCH3 | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H40N4O9
